US07495103B2
KNO3 (69.97 mg, 0.69 mmol) was added portion-wise to a suspension of 1,2,3,4-tetrahydroquinolin-4-spiro-4′-piperidine (133 mg, 0.66 mmol) in 98% H2SO4 (2 mL) at 0° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature and stirred for additional 2 h. The mixture was then poured into cracked ice and basified with 10% NaOH to pH˜8. Boc2O (172 mg, 0.79 mmol) was added dropwise and the mixture was stirred at room temperature for 1 h. The mixture was then extracted with EtOAc and the combined organic layers were dried over Na2SO4, filtered and concentrated to yield crude 7′-nitro-spiro[piperidine-4,4′(1′H)-quinoline], 2′,3′-dihydro-carboxylic acid tert-butyl ester (230 mg), which was used in the next step without further purification.

reactant | KNO3 | 0.69 mmol, 69.97 mg | [N+](=O)([O-])[O-].[K+]
reactant | 1,2,3,4-tetrahydroquinolin-4-spiro-4′-piperidine | 0.66 mmol, 133 mg | N1CCC2(CC1)CCNC1=CC=CC=C12 | C13H18N2
reactant | NaOH | [OH-].[Na+]
reactant | Boc2O | 0.79 mmol, 172 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
product | 7′-nitro-spiro[piperidine-4,4′(1′H)-quinoline] | [N+](=O)([O-])C1=CC=C2C3(C=CNC2=C1)CCNCC3 | C13H15N3O2
